US08076345B2
B) 2-(4-Bromo-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-chlorobenzonitrile
POBr3 (1.61 g, 5.6 mmol) was added portionwise over 2 min to a mixture of 5-chloro-2-(4-hydroxy-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (0.82 g, 2.8 mmol), N,N-dimethylaniline (0.7 mL), and N,N-dimethylformamide (0.02 mL) in acetonitrile (10 mL) and anisole (10 mL). The mixture was heated under reflux for 2.5 h and LC-MS showed reaction was complete. After cooling the mixture was diluted with chloroform (20 mL) and poured into a stirred mixture of ice (50 g), 50% KOH (8 mL) and chloroform (100 mL). The organic layer was separated and the aqueous layer was extracted with chloroform (25 mL×2). The combined organic layers were washed with brine (100 mL), dred (Na2SO4), filtered and concentrated. The residue was purified by silica gel column to yield a brown solid (0.35 g).

reactant | POBr3 | 5.6 mmol, 1.61 g | P(=O)(Br)(Br)Br | Br3OP
reactant | 5-chloro-2-(4-hydroxy-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 2.8 mmol, 0.82 g | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2O)CC1 | C14H11ClN4O
reactant | N,N-dimethylaniline | 0.7 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | KOH | 8 mL | [OH-].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | anisole | 10 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 0.02 mL | CN(C=O)C | C3H7NO
product | 2-(4-Bromo-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-chlorobenzonitrile | 0.35 g | BrC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)Cl | C14H10BrClN4
